US08664401B2
3-(2-{[Tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanone (5.11 g, 14.5 mmol) (WO 2006063281) was dissolved in tetrahydrofuran (120 mL). Sodium borohydride (548 mg, 14.5 mmol) was added and the reaction was stirred overnight at room temperature. The reaction was quenched with water and saturated aqueous sodium bicarbonate and stirred for 20 min until the bubbling ceased. The reaction mixture was diluted with ether and the aqueous layer was extracted with ether. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated in vacuo to give 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanol (3.58 g, 69.6%) as a clear oil. Partial 1H NMR indicated a ˜3.5:1 mix of cis-trans isomers. (CDCl3, δ ppm, key peaks are 4.08 (quintet, J=7.42, 0.78H) and 4.34 (quintet, J=6.83, 0.22H).

reactant | 3-(2-{[Tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanone | 14.5 mmol, 5.11 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1CC(C1)=O | C22H28O2Si
reactant | Sodium borohydride | 14.5 mmol, 548 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)cyclobutanol | 3.58 g, 69.6% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1CC(C1)O | C22H30O2Si
